US06566373B2
d) 3,3-Dimethoxy4-amino-tetrahydrofuran
A mixture of 3,3-Dimethoxy4-benzyloxycarbonylamino-tetrahydrofuran (16 g, 57 mmol) and 10% palladium on charcoal (2 g) in ethanol (200 ml) was stirred under an atmosphere of hydrogen (50 psi) for 12 h. The mixture was filtered and concentrated to afford the title compound as a yellow oil, 8 g, 100%.

reactant | 3,3-Dimethoxy4-benzyloxycarbonylamino-tetrahydrofuran | 57 mmol, 16 g | COC1(COCC1NC(=O)OCC1=CC=CC=C1)OC | C14H19NO5
catalyst | palladium on charcoal | 2 g | [Pd] | Pd
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3,3-Dimethoxy4-amino-tetrahydrofuran | COC1(COCC1N)OC | C6H13NO3
